US06034096
1.75 g (13 mmoles) of trans-cinnamol were dissolved in 130 ml of acetonitrile under argon atmosphere, then 5 g (19 mmoles) of N,N'-disuccinimidyl-carbonate were added heating until complete dissolution, then the mixture was cooled at 20° C. and added with pyridine (0.65 ml, 1 g, 12 mmoles). The reaction mixture was covered with aluminium and stirred at room temperature for 30 hours. The solvent was evaporated off in the cold, the residue was taken up into ethyl acetate and washed repeatedly with 0.1N HCl, finally with water. The solution was dried, then evaporated to dryness in the cold, to give a crude which was dissolved in 26 ml of dioxane and added to a solution of p-aminobenzoic acid (1.79 g, 13 mmoles) in 26 ml of water with 1.38 (13 mmoles) of sodium carbonate. The solution was stirred at room temperature for 60 hours, then added with THF and brine. The organic phase was separated and washed with 0.1N HCl (twice) and again with brine, then dried and !portata a secco stripped. The resulting crude was taken up into isopropyl ether and filtered, thereby obtaining 0.7 g of (E)-4-[(3-phenyl-prop-2-enyl)-carbamoyl]benzoic acid (18% yield); m.p.=176-178° C.

reactant | pyridine | 12 mmoles, 0.65 ml, 1 g | N1=CC=CC=C1 | C5H5N
reactant | aluminium | [Al] | Al
reactant | p-aminobenzoic acid | 13 mmoles, 1.79 g | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 130 ml | C(C)#N | C2H3N
solvent | dioxane | 26 ml | O1CCOCC1 | C4H8O2
solvent | water | 26 ml | O | H2O
solvent | brine | [Cl-].[Na+].O
solvent | THF | C1CCOC1 | C4H8O
product | (E)-4-[(3-phenyl-prop-2-enyl)-carbamoyl]benzoic acid | 0.7 g, 18% yield | C1(=CC=CC=C1)/C=C/CNC(=O)C1=CC=C(C(=O)O)C=C1 | C17H15NO3
